US07176242B2
A solution of sodium metal (30 mg, 1.30 mmol) in absolute ethanol (4.0 mL) was stirred at −10° C. for 0.5 h. Diethyl malonate (3.5 mL, 23 mmol) was added at −10° C. followed by addition of a solution of 2-propylcyclohexenone (3.0 g, 21.7 mmol) in absolute ethanol (3.0 mL). The reaction mixture was stirred an additional 12 h at room temperature. The reaction mixture was acidified to pH 3 with 10% hydrochloric acid and then extracted several times with diethyl ether. The combined ether extracts were washed with water, and saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure to yield a yellow oil. Purification by flash column chromatography (silica, 83:17 hexanes/ethyl acetate) gave 2-(3-oxo-4-propyl-cyclohexyl)-malonic acid diethyl ester (5.07 g): 1H NMR (300 MHz, CDCl3) δ 4.21 (q, J=7 Hz, 2H), 4.20 (q, J=7 Hz, 2H), 3.30 (s, 0.5H), 3.28 (s, 0.5H), 2.67–1.55 (m, 8H), 1.43–1.11 (m, 10H), 0.90 (t, J=7 Hz, 1.5H), 0.90 (t, J=7.0 Hz, 1.5H).

reactant | Diethyl malonate | 23 mmol, 3.5 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-propylcyclohexenone | 21.7 mmol, 3.0 g | C(CC)C=1C(CCCC1)=O | C9H14O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
catalyst | sodium | 1.30 mmol, 30 mg | [Na] | Na
product | 2-(3-oxo-4-propyl-cyclohexyl)-malonic acid diethyl ester | 5.07 g | C(C)OC(C(C(=O)OCC)C1CC(C(CC1)CCC)=O)=O | C16H26O5
